US09056865B2
Preparation of 1-(4-(3,5-dimethyl-2,4′-bipyridin-2′-yl)piperazin-1-yl)-3-(methylsulfonyl)propan-1-one (Example A-141)
To 1-[4-(5′-chloro-3,5-dimethyl-2,4′-bipyridin-2′-yl)piperazin-1-yl]-3-(methylsulfonyl)propan-1-one (44 mg, 0.10 mmol) was added MeOH/Water 6:1 (5 mL, 0.02M), then 10% Pd/C (25 μL=20 w/w % relative to substrate) followed by NH4OH (1.0 mL, 5 eq, 0.5M solution in MeOH). The reaction of mixture was stirred at ambient temperature at 25° C. under balloon H2 for 12 hrs. After filtering off catalyst through celite, the concentrated crude product was diluted with EtOAc (25 mL), washed with water (10 mL), then brine (10 mL), dried over MgSO4, filtered. The solution was concentrated in vacuo. The residue was purified by chromatography on silica gel (EtOAc/heptane=1:3) to give the title compound (36 mg, 90%) as a yellow solid. 1H NMR (400 MHz, CDCl3) δ ppm 8.36 (s, 1 H) 8.24-8.29 (m, 1 H) 7.42 (s, 1 H) 6.79-6.84 (m, 2 H) 3.75-3.81 (m, 4 H) 3.58-3.66 (m, 4 H) 3.47 (t, J=7.33 Hz, 2 H) 3.00 (s, 3H) 2.93-2.99 (m, 2 H) 2.37 (s, 3 H) 2.33 (s, 3 H); m/z for C20H26N4O3S 403.1 (M+H)+.

reactant | 1-[4-(5′-chloro-3,5-dimethyl-2,4′-bipyridin-2′-yl)piperazin-1-yl]-3-(methylsulfonyl)propan-1-one | 0.10 mmol, 44 mg | ClC=1C(=CC(=NC1)N1CCN(CC1)C(CCS(=O)(=O)C)=O)C1=NC=C(C=C1C)C | C20H25ClN4O3S
reactant | NH4OH | 0.5M, 1.0 mL, 5 eq | [NH4+].[OH-]
catalyst | Pd/C | 25 μL | [Pd] | Pd
solvent | MeOH Water | 0.02M, 5 mL | CO.O
product | 1-(4-(3,5-dimethyl-2,4′-bipyridin-2′-yl)piperazin-1-yl)-3-(methylsulfonyl)propan-1-one | 36 mg, 90% | CC=1C(=NC=C(C1)C)C1=CC(=NC=C1)N1CCN(CC1)C(CCS(=O)(=O)C)=O | C20H26N4O3S
